US07989433B2
An orange suspension of 4-nitroguaiacol potassium salt hydrate (31.7 g, 153 mmol) and 2-bromo-1-cyclopropylethanone (29.4 g, 180 mmol), prepared in part A, in DMF (310 mL) was heated at 80° C. for 1 h. LC-MS analysis revealed the conversion to product was complete. The resulting yellow reaction mixture was diluted with water (932 ml) and stirred for 4 hr as the mixture cooled to 20° C. Subsequent filtration yielded a yellow filter cake which after washing 3× with 150 mL of H2O and air drying yielded 34.6 g of 1-cyclopropyl-2-(2-methoxy-4-nitrophenoxy)ethanone as a light yellow solid. M.P. 112-113° C. 1H NMR (400 MHz, CDCl3): δ ppm 0.95-1.03 (m, 2H), 1.13-1.18 (m, 2H), 2.15-2.23 (m, 1H), 3.95 (s, 3H), 4.86 (s, 2H), 6.73 (d, J=8.7 Hz, 1H), 7.75 (d, J=2.7 Hz, 1H), 7.82 (dd, J=8.7, 2.7 Hz, 1H). 13C NMR (100 MHz, CDCl3) δ ppm 205.2, 152.7, 149.1, 117.3, 111.6, 106.9, 73.5, 56.3, 17.1, 12.0. HPLC: 5.8 min retention time, 98.7% API; ZORBAX® column SB C018 4.6×75 mm; flow rate 2.5 ml/min; Gradient solvent system: from 10% A:0% B to 0% A: 110% B for 8 min (Solvent A: 10% MeOH−90% H2O=0.2% H3PO4; Solvent B: 90% MeOH−10% H2O+0.2% H3PO4) Detection at 220 nm. LC/MS: m/e 252.3 (M+H); 4 min gradient; 2.35 min retention.

reactant | 4-nitroguaiacol potassium salt hydrate | 153 mmol, 31.7 g | O.[K].[N+](=O)([O-])C=1C=C(C(=CC1)OC)O
reactant | 2-bromo-1-cyclopropylethanone | 180 mmol, 29.4 g | BrCC(=O)C1CC1 | C5H7BrO
reactant | DMF | 310 mL | CN(C)C=O | C3H7NO
solvent | water | 932 ml | O | H2O
product | 1-cyclopropyl-2-(2-methoxy-4-nitrophenoxy)ethanone | 34.6 g | C1(CC1)C(COC1=C(C=C(C=C1)[N+](=O)[O-])OC)=O | C12H13NO5
